US07754759B2
To a solution of 4-fluoro-2-hydroxyacetophenone (3.083 g, 20 mmol) in NMP (50 mL) were added thiophenol (2.054 ml, 20 mmol) and K2CO3 (8.293 g, 60 mmol). The reaction was heated at 110° C. overnight. Upon cooling the mixture was poured into water, acidified by addition of HCl (diluted) and extracted with Et2O. The combined organic extracts were washed with water and brine, dried over Na2SO4, filtered and concentrated in vacuo to afford 1-(2-hydroxy-4-phenylsulfanyl-phenyl)-ethanone (4.980 g of oil) that was used for the next step without further purification.

reactant | 4-fluoro-2-hydroxyacetophenone | 20 mmol, 3.083 g | CC(=O)C1=C(C=C(C=C1)F)O | C8H7FO2
reactant | thiophenol | 20 mmol, 2.054 ml | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 60 mmol, 8.293 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | NMP | 50 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 1-(2-hydroxy-4-phenylsulfanyl-phenyl)-ethanone | 4.980 g | OC1=C(C=CC(=C1)SC1=CC=CC=C1)C(C)=O | C14H12O2S
